US05274135
An alternative process is that wherein a 3- or 4-halobenzocyclobutene reactant is treated with a phthalimide or maleimide to produce a 3- or 4-phthalimido-or maleimidobenzocyclobutene. When phthalimide or maleimide is monomeric, for example, phthalide or maleimide themselves, the product can be cleaved by reaction with an amine to produce a corresponding aminobenzocyclobutene. A preferred amine for this purpose is hydrazine, preferably hydrazine hydrate.

reactant | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | maleimide | C1(C=CC(N1)=O)=O | C4H3NO2
product | maleimidobenzocyclobutene | C1(C=CC(N1C1CC=2C1=CC=CC2)=O)=O | C12H9NO2
